US08067592B2
To a stirred solution of 1-methyl-5-nitroindazole (3.24 g, commercially available) in concentrated hydrochloric acid (75 ml) was added iron powder (3.53 g) in portions over 10 minutes, allowing the reaction temperature to gradually rise to 52° C. On complete addition, the reaction mixture was heated to 70-75° C. for 1 hour, cooled to ambient temperature and stored for 18 hours. The mixture was chilled by the addition of ice then taken to pH 9 with aqueous sodium hydroxide filtered and the filtrate and insoluble solids extracted with ethyl acetate (three times). The extracts were combined, washed with brine and dried over magnesium sulphate then evaporated under reduced pressure to give 5-amino-1-methylindazole as a pale brown solid.

reactant | 1-methyl-5-nitroindazole | CN1N=CC2=CC(=CC=C12)[N+](=O)[O-] | C8H7N3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 75 ml | Cl | ClH
catalyst | iron | 3.53 g | [Fe] | Fe
product | 5-amino-1-methylindazole | NC=1C=C2C=NN(C2=CC1)C | C8H9N3
